US03969345
3α-Hydroxy-21-bromo-16α-methyl-5α-pregnane-11,20-dione
3α-Hydroxy-16α-methyl-5α-pregnane-11,20-dione (5 g.) was dissolved in dry methanol (350 ml.) and treated at 0° with a solution of bromine (1 ml.) in dry methanol (24 ml.) at such a rate that the yellow colour disappeared before further addition. After completion of the addition the mixture was poured into water. The precipitated product was dried and dissolved in chloroform (20 ml.) and put onto a column of silica gel MFC (700 g.). Elution with benzene:ethyl acetate (21/2:1) gave the title compound (3.6 g.) as a foam, [α]D + 112.4°.

reactant | 3α-Hydroxy-16α-methyl-5α-pregnane-11,20-dione | 5 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H]([C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C)C | C22H34O3
reactant | bromine | 1 ml | BrBr | Br2
reactant | water | O | H2O
solvent | methanol | 350 ml | CO | CH4O
solvent | methanol | 24 ml | CO | CH4O
product | 3α-Hydroxy-21-bromo-16α-methyl-5α-pregnane-11,20-dione | 3.6 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H]([C@H](C(CBr)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C)C | C22H33BrO3
